US07576215B2
4-[(4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY)METHYL]BENZOIC ACID
The title compound was prepared from 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol (0.1 g, 0.0002 mole) and 4-Bromomethyl-benzoic acid methyl ester (0.057 g, 0.00024 mole) with subsequent hydrolysis following the procedure of Example 515: MS (ES) m/z 603.9; HRMS: calcd for C37H26F3NO4+H+, 606.18867; found (ESI, [M+H]+), 606.1894.

reactant | 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol | 0.0002 mole, 0.1 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(C=C2)O)C=CC1)C(F)(F)F | C29H20F3NO2
reactant | 4-Bromomethyl-benzoic acid methyl ester | 0.00024 mole, 0.057 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
product | 4-[(4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY)METHYL]BENZOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(OCC3=CC=C(C(=O)O)C=C3)C=C2)C=CC1)C(F)(F)F | C37H26F3NO4
